Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ativan / gluten
 
Attending: ___.
 
Chief Complaint:
abd pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ male ___ male with
history of celiac disease noncompliant with gluten-free diet,
reported bipolar disorder not on therapy, recent automobile
versus pedestrian 1 month ago with negative imaging but with
chronic back pain, presents with acute onset abdominal pain,
fevers, left flank pain.

Patient was in his usual state of health until approximately 1
month ago when he presented to this hospital after being struck
by car on his bicycle.  He struck his head at the time but did
not lose consciousness.  Imaging was obtained and was without
evidence of acute traumatic injury, he was tolerating p.o. and
ambulating with a steady gait and was sent home with follow-up
with his PCP.  He was scheduled to undergo physical therapy as 
he
has been had ongoing pain in his neck radiating down his back
along with pain in the paraspinal muscles on both sides of his
lumbar spine, however has not started the physical therapy yet. 
Additionally, he has also noted ongoing diffuse headache that
occurs daily, is constant in nature however the intensity
fluctuates, and is worse with staring at a computer.  Notes some
sensitivity to light but again this has been ongoing for a 
month.
He notes a one-month history of neck pain that radiates down his
spine to his low back, unchanged compared to prior.

Three days prior to admission (on ___, he noted the acute
onset of left-sided upper abdominal pain, associated right-sided
upper quadrant abdominal pain and left flank pain.  He also felt
feverish.  He continued to have this pain over the weekend.  
Over
the 24 hours prior to admission, he also had 2 episodes of 
bright
red blood per rectum; he does admit that he has had episodes 
like
this previously when he has not adherent to a gluten-free diet.
Additionally, he had 2 episodes of urinary incontinence in which
he did not feel the urge to urinate but found that he had
urinated on himself.  This has never happened to him before.  He
was also endorsing some generalized numbness in the left side of
his face, left arm, left side of his body and left leg.

In the ED:
- He was febrile initially up to 101.9, and tachycardic, satting
well on room air.
- Labs were remarkable for leukocytosis, WBC 15.3 with left
shift, no bands. Urinalysis showed moderate leukocyte esterase,
+WBCs, bacteria.  
- Flu screen was negative.
- CXR was unremarkable.
- He declined digital rectal exam in the ED.
- A CT abdomen/pelvis was obtained and showed no acute
abnormalities (however appendix was not visualized). 
- Due to his reported neurologic symptoms including numbness as
well as urinary incontinence, and MRI thoracic and lumbar spine
was obtained and did not suggest cauda equina syndrome.
- He was given ceftriaxone for possible urinary tract infection, 

and 2L IV fluids.
- Medicine was asked to admit for IV antibiotics and monitoring
to evaluate for infectious etiology.

Upon my evaluation, patient describes events as noted above.  He
tells me his abdominal pain is improving.  He has been afebrile
for the last several hours.  In regards to other history, he is
sexually active with more than one partner and notes that he was
previously tested for STDs which were negative, but does not
recall how long ago this was.  He does not use any illicit 
drugs,
denies IV drug use.  No history of HIV.  No rash, no recent
hiking or known insect bites, no pets at home.
He does have the neck pain as noted above but states that is
unchanged compared to prior, does not have any true nuchal
rigidity, no photophobia.  In regards to his other neurologic
symptoms, he has had no further episodes of the urinary
incontinence.  He does endorse this slight numbness in the left
side of his face, arm, side and left leg.  He also endorses
unchanged back pain over the last month.
In regards to his BRBPR he attributes this to not adhering to a
gluten-free diet, in fact he had 2 cookies several days ago, and
he tells me that he has had bloody stool previously in similar
instances.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Celiac disease, does not adhere to gluten-free diet.
- Recent motor vehicle accident in ___, imaging
negative, continues to have chronic neck and back pain.
- Bipolar disorder, not on medications.
 
Social History:
___
Family History:
Reported that sister has uterine fibroids,
otherwise negative.
 
Physical Exam:
___ 0811 Temp: 98.4 PO BP: 126/84 HR: 83 RR: 18 O2 sat: 98%
O2 delivery: RA 
VITALS: Afebrile and vital signs stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: rrr, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM.  He declined digital rectal exam by me.
GU: No suprapubic fullness. 
MSK: Neck supple, moves all extremities, strength ___ and
symmetric bilaterally in all limbs.  He does have point
tenderness in the paraspinal and intraspinal muscles throughout
his lumbar spine as well as some mild tenderness in the lower
part C spine and upper part of T spine.
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, CN II-XII grossly 
intact.
Reflexes 2+ throughout. Gaze conjugate with EOMI, speech fluent,
moves all limbs, sensation to light touch grossly intact
throughout. 
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
98.0  116 / 75 74 18 99 RA 
GEN: AAM in NAD, ambulating in room
HEENT: MMM
CV: RRR no m/r/g
RESP: CTAB no wr
ABD: thin, active BS, TTP over Left side of abdomen is improved 
after multiple BMS
GU: no foley
EXTR: warm no edema
Neurologic: CN ___ grossly intact, pt reports some different 
sensation over entire left side of face though all motor 
function intact and hearing grossly intact bilaterally.  
Strength ___ all four extremities proximal and distal muscle 
groups.  EOMI, PERRLA, Ambulates independently
 
Pertinent Results:
___ 06:45PM BLOOD WBC-15.3* RBC-4.96 Hgb-14.3 Hct-43.1 
MCV-87 MCH-28.8 MCHC-33.2 RDW-12.7 RDWSD-40.0 Plt ___
___ 07:14AM BLOOD WBC-7.4 RBC-4.86 Hgb-14.0 Hct-42.9 MCV-88 
MCH-28.8 MCHC-32.6 RDW-12.8 RDWSD-41.1 Plt ___
___ 06:45PM BLOOD Neuts-82.6* Lymphs-7.6* Monos-7.1 Eos-2.0 
Baso-0.2 Im ___ AbsNeut-12.63* AbsLymp-1.16* AbsMono-1.09* 
AbsEos-0.31 AbsBaso-0.03
___ 07:14AM BLOOD Neuts-58.4 ___ Monos-11.0 Eos-5.3 
Baso-0.5 Im ___ AbsNeut-4.31 AbsLymp-1.80 AbsMono-0.81* 
AbsEos-0.39 AbsBaso-0.04
___ 07:14AM BLOOD Glucose-99 UreaN-9 Creat-0.9 Na-142 K-4.6 
Cl-102 HCO3-29 AnGap-11
___ 07:14AM BLOOD ALT-14 AST-16 AlkPhos-77 TotBili-0.6 
DirBili-<0.2 IndBili-0.6
___ 06:45PM BLOOD cTropnT-<0.01
___ 06:45PM BLOOD Lipase-20
___ 07:14AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.0
___ 06:45PM BLOOD Albumin-4.1
___ 06:45PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 09:45AM BLOOD HIV Ab-NEG
Urine Gonorrhea/Chlamydia was negative
Urine Trich was negative

CXR PA/Lat: no acute cardiopulmonary process

CT Abd:1. Limited evaluation of the bowel due to paucity of 
intra-abdominal fat and
lack of enteric contrast.  Appendix is not visualized and there 
is limited
evaluation for surrounding changes.
2. Cluster of right lower quadrant lymph nodes measuring up to 1 
cm in short
axis which could be related to patient's known celiac disease.
3. No other visualized acute intra-abdominal process.  Symmetric 
enhancement
of the kidneys.

MRI L spine
1. No evidence of epidural abscess.
2. No focal bone marrow signal or disc signal abnormalities to 
suggest
osteomyelitis.  No prevertebral or paraspinal soft tissue 
abnormalities.
3. Disc protrusion at L4-L5 with slight inferior migration and 
moderate
bilateral neural foraminal narrowing.
4. Minimal anterior wedging of the T11 and T12 vertebral bodies 
is likely
physiologic.
5. Additional findings described above.

Urine CX + skin flora/contamination
Blood Cx NGTD 
 
Brief Hospital Course:
___ y/o M with PMhx of Celiac Dz (non compliant with gluten free 
diet), Bipolar D/o and Recent MVA with ongoing back pain 
symptoms who p/w fevers, abdominal pain, urinary incontinence 
and constipation.

Sepsis possibly due to Urinary tract infection:  Pt had a UA 
Positive for infection and urinary retention with overflow 
incontinence.  He underwent an MRI spine given concern for 
epidural abscess that showed only a small disc bulge at L4-5 
without any cord compression or signs of infection.  Work up was 
sent for possible STIs given new sexual partner.  HIV, ___ 
panel, Chlamydia, Gonorrhea and Trich all returned negative.  CT 
abd was performed to evaluate for intra-abdominal infection and 
did not show any abscess but did show significant stool burden.  
Pt was treated empirically with Ceftriaxone for UTI though Cx 
returned contaminated with skin flora.   Fevers resolved, WBC 
returned to normal and pt was able to void without any retention 
or dysuria by the time of discharge.   Pt was switched to 
Ciprofloxacin 500mg BID for another 5 days to complete a 7 day 
course for UTI.   Pt was encouraged to monitor for any 
recurrence of fever symptoms and is scheduled to see his PCP 
next week.

Constipation/Left sided abd pain: pt was reporting ongoing abd 
distension and left sided abd pain with large stool burden on 
imaging.    Symptoms improved significantly with aggressive 
bowel regimen and pt ws discharged with a prescription for 
miralax.    Suspect that the presentation with urinary retention 
and constipation may have been related to pt taking muscle 
relaxers and topical CBD at home to manage pain.  

Low back pain: improved with rest and is likely related to 
recent MVA.   Pt was encouraged to get outpt ___ and is eager to 
pursue it.

Left sided face/arm symptoms: pt reports some tingling/numbness 
over the entire left side of his face and occasionally down the 
left arm for the last ___ weeks.   He is concerned that this was 
precipitated but the MVA and is also concerned that his left 
ear's hearing may not be the same as the right ear.   Neuro exam 
was normal throughout admission and pt was encouraged to discuss 
symptoms further with his PCP next week

___ issues:
- f/u on constipation and left sided abd pain symptoms
- encourage compliance with gluten free diet
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg one tablet(s) by mouth twice daily 
Disp #*10 Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
RX *polyethylene glycol 3350 17 gram/dose 17gram powder(s) by 
mouth daily as needed Disp #*14 Gram Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urinary Tract infection
Constipation
Celiac Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with fevers, abdominal pain, urinary symptoms 
and concern for serious infection.  Imaging of your abdomen and 
back were reassuring without only a small disc bulge in your low 
back and no acute findings in the abd to explain fevers.  You 
likely had a urinary tract infection and the symptoms seem to be 
improved on antibiotics.  You also had a large stool burden that 
was likely contributing to the abdominal pain.   We recommend 
that you continue taking the Ciprofloxacin 500mg BID for another 
5 days to complete a 7 day course for UTI. Please continue 
taking stool softeners daily and maintain a gluten free diet to 
avoid further complications.   If you develop any severe 
worsening in abd pain, fevers, or concerning symptoms, please 
return for urgent evaluation.

Best wishes from your team at ___
 
Followup Instructions:
___